US05281571
To 5.00 g of 3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole dissolved in 50 ml of acetic acid was added 15 ml of sulfuryl chloride. The mixture was mildly refluxed with 2 ml portions of sulfuryl chloride added every 15 minutes. After 6 hours, the mixture was cooled, then diluted with water and extracted with ether. The ether was washed 3 times with water, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was chromatographed to give a quantitative yield of 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole.

reactant | 3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 5.00 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C1=NN(C(=C1)C(F)(F)F)C | C11H6F5N3O2
reactant | sulfuryl chloride | 15 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | quantitative yield | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C11H5ClF5N3O2
